US06987116B2
A mixture of 7-chlorothieno[3,2-b]pyridine-6-carbonitrile (200 mg, 1.03 mmol) and 2,4-dichlorothiophenol (202.9 mg, 1.13 mmol) in 5 mL of N,N-dimethylformamide is stirred at room temperature for 1 hour, and then concentrated in vacuo. The resulting residue is treated with water and stirred for 1 hour. The precipitate is filtered, washed with water, air dried, and then purified by flash column chromatography eluting with a gradient of 5% ethyl acetate in hexane to 20% ethyl acetate in hexane to provide 249.0 mg of 7-[(2,4-dichlorophenyl)thio]thieno[3,2-b]pyridine-6-carbonitrile as a white solid, mp 126-128° C.; 1H NMR (DMSO-d6) δ 7.47 (dd, J=6, 2 Hz, 1H), 7.54 (d, J=6 Hz, 1H), 7.73 (d, J=4 Hz, 1H), 7.88 (d, J=2 Hz, 1H), 8.43 (d, J=4 Hz, 1H), 9.09 (s, 1H); MS 336.9, 339.0 (M+H)+.

reactant | 7-chlorothieno[3,2-b]pyridine-6-carbonitrile | 1.03 mmol, 200 mg | ClC1=C2C(=NC=C1C#N)C=CS2 | C8H3ClN2S
reactant | 2,4-dichlorothiophenol | 1.13 mmol, 202.9 mg | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 7-[(2,4-dichlorophenyl)thio]thieno[3,2-b]pyridine-6-carbonitrile | 249.0 mg | ClC1=C(C=CC(=C1)Cl)SC1=C2C(=NC=C1C#N)C=CS2 | C14H6Cl2N2S2
